US06730792B2
A slurry of 2-cyano phenol (25 g, 209.87 mmol), triethylamine hydrochloride (43.3 g, 314.81 mmol), and sodium azide (20.5 g, 314.81 mmol) in toluene (200 mL) is heated to the reflux temperature of the mixture and then the mixture is allowed to stir at reflux for 15 hours. The mixture is cooled and washed with water (200 mL). The aqueous layer is washed with ether (100 mL), made acidic with concentrated HCl, and the resulting solid is collected by filtration. The solid is washed twice with water (200 mL) and dried under vacuum at 100° C. for 15 hours to give 33.05 g of 2-(tetrazol-3-yl)phenol (97%).

reactant | 2-cyano phenol | 209.87 mmol, 25 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | triethylamine hydrochloride | 314.81 mmol, 43.3 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 314.81 mmol, 20.5 g | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(tetrazol-3-yl)phenol | 33.05 g, 97% | N1=NN(N=C1)C1=C(C=CC=C1)O | C7H6N4O
